US07943619B2
6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid cyclopropylmethyl-amide
As described for example 123 g, 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (70 mg, 0.24 mmol) was converted, using aminomethylcyclopropane instead of isopropylamine, to the title compound (50 mg, 61%) which was obtained as an off white solid. MS: m/e=352.3 [M+H]+.

reactant | 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.24 mmol, 70 mg | N1=C(C=CC=C1)C1=NOC=C1COC1=CC=C(N=N1)C(=O)O | C14H10N4O4
reactant | aminomethylcyclopropane | NCC1CC1 | C4H9N
product | 6-(3-Pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid cyclopropylmethyl-amide | 50 mg, 61% | C1(CC1)CNC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1)C1=NC=CC=C1 | C18H17N5O3
